datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[NH+](C)CC[Se:21][H:20].Cc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:10]>>C[NH+](C)CC[Se-:21].Cc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:10][H:20] 10=20;20,21=21",
"Cc1ccc2ccc3ccc(C)[n:10]c3c2n1.[NH3+]CCCCCCCCCC(=O)[O:21][H:20]>>Cc1ccc2ccc3ccc(C)[n+:10]([H:20])c3c2n1.[NH3+]CCCCCCCCCC(=O)[O-:21] 10=20;20,21=21",
"CCCCCCCC[N+:21](CC(C)O)(CC(C)O)[H:20].O=C(/C=C/c1cccc(O)c1)[O-:10]>>CCCCCCCC[N:21](CC(C)O)CC(C)O.O=C(/C=C/c1cccc(O)c1)[O:10][H:20] 10=20;20,21=21",
"CC(C)C[C@H](N)C(=O)N[C@@H](CCC(N)=O)C(=O)[O-:10].[O-]c1cc([O:21][H:20])cc[nH+]1>>CC(C)C[C@H](N)C(=O)N[C@@H](CCC(N)=O)C(=O)[O:10][H:20].[O-]c1cc([O-:21])cc[nH+]1 10=20;20,21=21",
"COc1cccc(-c2nnn[n-:10]2)c1.Nc1[nH]c2c(N)[n+:21]([H:20])c(N)nc2[nH+]1>>COc1cccc(-c2nnn[n:10]2[H:20])c1.Nc1[nH]c2c(N)[n:21]c(N)nc2[nH+]1 10=20;20,21=21",
"Cc1cc(C(=O)[O:21][H:20])c(C)o1.Oc1cccc(O)c1[NH2:10]>>Cc1cc(C(=O)[O-:21])c(C)o1.Oc1cccc(O)c1[NH2+:10][H:20] 10=20;20,21=21",
"O=S(=O)(C(F)(F)Cl)[NH-:10].[O-]c1c(Cl)c(Cl)cc(Cl)c1C[N+:21]1([H:20])CCOCC1>>O=S(=O)(C(F)(F)Cl)[NH:10][H:20].[O-]c1c(Cl)c(Cl)cc(Cl)c1C[N:21]1CCOCC1 10=20;20,21=21",
"CCC/C(OCC)=[NH+:21]\[H:20].C[N:10](C)C1CCNCC1>>CCCC(OCC)=[NH:21].C[N+:10](C)(C1CCNCC1)[H:20] 10=20;20,21=21",
"CN1C(=O)c2[nH]c[nH+]c2N(C)/C1=[O+:21]/[H:20].C[C@@H]1C[NH:10][C@@H](C)CN1>>CN1C(=O)c2[nH]c[nH+]c2N(C)C1=[O:21].C[C@@H]1C[NH+:10]([H:20])[C@@H](C)CN1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.Cc1ccc(C[NH:10]C)cc1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.Cc1ccc(C[NH+:10](C)[H:20])cc1 10=20;20,21=21",
"NCCC[NH2+]CCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NCCC[NH2+]CCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cc([N+](=O)[O-])ccc1[N:21](N=C(C#N)C#N)[H:20].Oc1cccc(C(c2ccccc2)=[NH:10])c1>>Cc1cc([N+](=O)[O-])ccc1[N-:21]N=C(C#N)C#N.Oc1cccc(C(c2ccccc2)=[NH+:10][H:20])c1 10=20;20,21=21",
"Clc1[nH]c2cc3c(cc2[n+:21]1[H:20])CCCC3.O=C(c1cccc[n+]1[O-])[O-:10]>>Clc1[nH]c2cc3c(cc2[n:21]1)CCCC3.O=C(c1cccc[n+]1[O-])[O:10][H:20] 10=20;20,21=21",
"CC(C#N)C(=O)[O:21][H:20].CCc1cc(C(C)C)ccc1[O-:10]>>CC(C#N)C(=O)[O-:21].CCc1cc(C(C)C)ccc1[O:10][H:20] 10=20;20,21=21",
"C=CCC1(CC=C)SC(=O)[N:21]([H:20])C1=O.COc1cc(S(C)=O)ccc1-c1[nH]c2cn[nH]c2[n:10]1>>C=CCC1(CC=C)SC(=O)[N-:21]C1=O.COc1cc(S(C)=O)ccc1-c1[nH]c2cn[nH]c2[n+:10]1[H:20] 10=20;20,21=21",
"CC[N:10](C(C)C)C(C)C.NC(=O)C(=S)[NH:21][H:20]>>CC[N+:10](C(C)C)(C(C)C)[H:20].NC(=O)C(=S)[NH-:21] 10=20;20,21=21",
"CCC(C)[NH:10]C(C)C.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCC(C)[NH+:10](C(C)C)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CCN(CC)Cc1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCN(CC)Cc1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"NCCCCCC[NH2+:21][H:20].O=C1NOCC1[NH2:10]>>NCCCCCC[NH2:21].O=C1NOCC1[NH2+:10][H:20] 10=20;20,21=21",
"CCc1cccc(C[N:10](C)C)c1O.Nc1c2ccccc2cc[n+:21]1[H:20]>>CCc1cccc(C[N+:10](C)(C)[H:20])c1O.Nc1c2ccccc2cc[n:21]1 10=20;20,21=21",
"C[NH2+]CC(=O)c1ccc([O-:10])cc1.NC1=[N+:21]([H:20])[C@H]2C[C@@H](N1)N[C@@H]2C(=O)[O-]>>C[NH2+]CC(=O)c1ccc([O:10][H:20])cc1.NC1=[N:21][C@H]2C[C@@H](N1)N[C@@H]2C(=O)[O-] 10=20;20,21=21",
"O=[N+]([O-])c1cccc(-c2ccc([O-:10])cc2)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1cccc(-c2ccc([O:10][H:20])cc2)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCN(CC)Cc1cc(C)ccc1[O-:10].Cc1cccc([Se](=O)[O:21][H:20])c1>>CCN(CC)Cc1cc(C)ccc1[O:10][H:20].Cc1cccc([Se](=O)[O-:21])c1 10=20;20,21=21",
"CC(C)[NH:10]CCC#N.CC(O)[OH+:21][H:20]>>CC(C)[NH+:10](CCC#N)[H:20].CC(O)[OH:21] 10=20;20,21=21",
"CC[NH2+]CCC(=O)[O-:10].NC(C[NH3+])C[NH2+:21][H:20]>>CC[NH2+]CCC(=O)[O:10][H:20].NC(C[NH3+])C[NH2:21] 10=20;20,21=21",
"Cc1nnc([N-:10]S(=O)(=O)c2ccc(O)cc2)s1.c1ccc(C[NH2+:21][H:20])cc1>>Cc1nnc([N:10](S(=O)(=O)c2ccc(O)cc2)[H:20])s1.c1ccc(C[NH2:21])cc1 10=20;20,21=21",
"CC[N+:21](CC)(CCOC(=O)c1ccc2ccccc2c1)[H:20].OC(c1ccccc1)[O-:10]>>CC[N:21](CC)CCOC(=O)c1ccc2ccccc2c1.OC(c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"COCC[O-:10].C[C:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)([N+](=O)[O-])[H:20]>>COCC[O:10][H:20].C[C-:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[N+](=O)[O-] 10=20;20,21=21",
"Cc1ccc(SCC(=O)[O:21][H:20])cc1.Fc1cccc2[nH]c[n:10]c12>>Cc1ccc(SCC(=O)[O-:21])cc1.Fc1cccc2[nH]c[n+:10]([H:20])c12 10=20;20,21=21",
"CC[NH+](CC)CCC(C)Nc1c2cc(OC)ccc2[n+:21]([H:20])c2cc(Cl)ccc12.C[N+](C)(C)CCCC(=O)[O-:10]>>CC[NH+](CC)CCC(C)Nc1c2cc(OC)ccc2[n:21]c2cc(Cl)ccc12.C[N+](C)(C)CCCC(=O)[O:10][H:20] 10=20;20,21=21",
"NCCCC[NH:10]CCCN.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>NCCCC[NH+:10](CCCN)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC(C)[NH:10]CC(O)COc1ccccc1.S=C1c2[nH]nnc2N=C[N:21]1[H:20]>>CC(C)[NH+:10](CC(O)COc1ccccc1)[H:20].S=C1c2[nH]nnc2N=C[N-:21]1 10=20;20,21=21",
"O=C1c2ccc([N+](=O)[O-])cc2C(=O)[N-:10]1.c1c[n+:21]([H:20])nc2c1CCCC2>>O=C1c2ccc([N+](=O)[O-])cc2C(=O)[N:10]1[H:20].c1c[n:21]nc2c1CCCC2 10=20;20,21=21",
